US07989461B2
To a solution of 2-(3-(6-methyl-5-(2-(methylamino)quinazolin-6-yl)phthalazin-1-ylamino)phenyl)ethanone (0.056 g, 0.13 mmol)n THF (2.0 ml), charged to a 50 mL round bottom, methylmagnesium bromide, 1.4 m solution in toluene/tetrahydrofuran (75:25) (0.19 ml, 0.27 mmol) was added at 0° C. The reaction mixture was stirred for 2 h. The reaction mixture was diluted with water and extracted with DCM. The combined organics were washed with brine, dried over magnesium sulfate and concentrated under vacuum. The resulting residue was loaded on to silica and purified by column Chromatography. (ISCO 12.0 g, 1-7% MeOH in DCM, 25 min.) to give 2-(3-(6-methyl-5-(2-(methylamino)quinazolin-6-yl)phthalazin-1-ylamino)phenyl)propan-2-ol. MS (M+H)+ 451.

reactant | 2-(3-(6-methyl-5-(2-(methylamino)quinazolin-6-yl)phthalazin-1-ylamino)phenyl)ethanone | 0.13 mmol, 0.056 g | CC=1C(=C2C=NN=C(C2=CC1)NC=1C=C(C=CC1)CC=O)C=1C=C2C=NC(=NC2=CC1)NC | C26H22N6O
reactant | THF | 2.0 ml | C1CCOC1 | C4H8O
reactant | methylmagnesium bromide | C[Mg]Br
reactant | toluene tetrahydrofuran | 0.27 mmol, 0.19 ml | C1(=CC=CC=C1)C.O1CCCC1
solvent | water | O | H2O
product | 2-(3-(6-methyl-5-(2-(methylamino)quinazolin-6-yl)phthalazin-1-ylamino)phenyl)propan-2-ol | CC=1C(=C2C=NN=C(C2=CC1)NC=1C=C(C=CC1)C(C)(C)O)C=1C=C2C=NC(=NC2=CC1)NC | C27H26N6O
